US04880806
To a solution of 3,6-difluoro-2-(4-benzyl-1-piperazinyl)-5-nitrobenzyl alcohol (15.4 g) in methanol (400 ml) is added gradually conc. sulfuric acid (80 ml) with stirring under ice cooling. After the addition, the mixture is refluxed for 30 hours, and thereto is further added conc. sulfuric acid (10 ml), and the mixture is further refluxed for 20 hours. After cooling to room temperature, the reaction mixture is adjusted to below pH 8 with aqueous saturated potassium carbonate and aqueous saturated sodium hydrogen carbonate and then extracted with ethyl acetate. The extract is dried over magnesium sulfate, and then the solvent is distilled off. The residue is purified by silica gel column chromatography (solvent, dichloromethane) to give 2,5-difluoro-4-(4-benzyl-1-piperazinyl)-3-methoxymethylnitrobenzene (12.9 g).

reactant | 3,6-difluoro-2-(4-benzyl-1-piperazinyl)-5-nitrobenzyl alcohol | 15.4 g | FC=1C(=C(CO)C(=C(C1)[N+](=O)[O-])F)N1CCN(CC1)CC1=CC=CC=C1 | C18H19F2N3O3
reactant | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 400 ml | CO | CH4O
product | 2,5-difluoro-4-(4-benzyl-1-piperazinyl)-3-methoxymethylnitrobenzene | 12.9 g | FC1=C(C=C(C(=C1COC)N1CCN(CC1)CC1=CC=CC=C1)F)[N+](=O)[O-] | C19H21F2N3O3
